US05891902
Ethyl 3-(4-benzyloxybenzhydryl)indole-2-carboxylate
Substantially the same procedure as in Reference Example 4 was repeated using 4-benzyloxybenzhydrol (30.0 g, 103 mmol) and ethyl indole-2-carboxylate (18.5 g, 97.9 mmol) to give 42.7 g (yield: 95%) of the title compound.

reactant | 4-benzyloxybenzhydrol | 103 mmol, 30.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C20H18O2
reactant | ethyl indole-2-carboxylate | 97.9 mmol, 18.5 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
product | Ethyl 3-(4-benzyloxybenzhydryl)indole-2-carboxylate | 42.7 g, yield: 95% | C(C1=CC=CC=C1)OC1=CC=C(C(C2=CC=CC=C2)C2=C(NC3=CC=CC=C23)C(=O)OCC)C=C1 | C31H27NO3
